US06762320B2
a) 4-[2-(4-Chloro-phenyl)-vinyl]-1-nitro-benzene
Prepared in analogy to example 56b) from (4-nitro-benzyl)-phosphonic acid diethyl ester and 4-chloro-benzaldehyde. Yellow solid. Yield=95%. MS: m/e=259.1 (M+).

reactant | (4-nitro-benzyl)-phosphonic acid diethyl ester | C(C)OP(OCC)(=O)CC1=CC=C(C=C1)[N+](=O)[O-] | C11H16NO5P
reactant | 4-chloro-benzaldehyde | ClC1=CC=C(C=O)C=C1 | C7H5ClO
product | 4-[2-(4-Chloro-phenyl)-vinyl]-1-nitro-benzene | Yield=95% | ClC1=CC=C(C=C1)C=CC1=CC=C(C=C1)[N+](=O)[O-] | C14H10ClNO2
